US04766125
To a stirred solution of 5.5 parts of 3-(aminocarbonyl)-N-(4-amino-2,6-dimethylphenyl)-4-[4,4-bis(4-fluorophenyl)butyl]-1-piperazineacetamide in 70 parts of acetic acid was added dropwise a solution of 1.62 parts of potassium isocyanate in 20 parts of water. Upon completion, stirring at room temperature was continued for 30 minutes. Upon standing overnight at room temperature, the reaction mixture was evaporated. Water was added to the residue and the product was extracted with dichloromethane. The extract was washed with water, dried, filtered and evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 2.55 parts of 3-(aminocarbonyl)-N-[4-[(aminocarbonyl)amino]-2,6-dimethylphenyl]-4-[4,4-bis(4-fluorophenyl)butyl]-1-piperazineacetamide; mp. 142.5° C. (compound 168).

reactant | 3-(aminocarbonyl)-N-(4-amino-2,6-dimethylphenyl)-4-[4,4-bis(4-fluorophenyl)butyl]-1-piperazineacetamide | NC(=O)C1CN(CCN1CCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)CC(=O)NC1=C(C=C(C=C1C)N)C | C31H37F2N5O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | potassium isocyanate | [N-]=C=O.[K+]
solvent | water | O | H2O
product | 3-(aminocarbonyl)-N-[4-[(aminocarbonyl)amino]-2,6-dimethylphenyl]-4-[4,4-bis(4-fluorophenyl)butyl]-1-piperazineacetamide | NC(=O)C1CN(CCN1CCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)CC(=O)NC1=C(C=C(C=C1C)NC(=O)N)C | C32H38F2N6O3
